US08563541B2
Product (Example 1): 2-tert-butyl-10-fluoro-3,8-dihydroimidazo[4,5-d]pyrido[2,3-b][1]benzazepine
3-[2-tert-Butyl-4-(4-fluoro-2-aminophenyl)-1H-imidazol-5-yl]-2-fluoropyridine (0.070 g, 0.21 mmol) was dissolved in ethanol (2 mL). The reaction was heated in a microwave reactor at 180° C. for 5 min. The reaction was concentrated and purified by column chromatography on silica gel (50% ethyl acetate 50% hexanes) to give 0.052 g of the desired product. 1H NMR (500 MHz, CD3OD): δ 8.16-8.18 (m, 1H), 7.85-7.87 (m, 1H), 7.48-7.51 (m, 1H), 7.07-7.10 (m, 1H), 6.82-6.90 (m, 2H), 1.58 (s, 9H). MS [M+H]=309.

reactant | 3-[2-tert-Butyl-4-(4-fluoro-2-aminophenyl)-1H-imidazol-5-yl]-2-fluoropyridine | 0.21 mmol, 0.070 g | C(C)(C)(C)C=1NC(=C(N1)C1=C(C=C(C=C1)F)N)C=1C(=NC=CC1)F | C18H18F2N4
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-tert-butyl-10-fluoro-3,8-dihydroimidazo[4,5-d]pyrido[2,3-b][1]benzazepine | 0.052 g | C(C)(C)(C)C1=NC2=C(C3=C(NC4=C2C=CC(=C4)F)N=CC=C3)N1 | C18H17FN4
